US09085555B2
(1R,3S,5R)-3-(3-Chloro-2-fluoro-benzylcarbamoyl)-5-methyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester
Lithium triethylborohydride (1N in THF, 2.06 mL, 2.06 mmol) was added at 0° C. to a solution of (1R,3S,5S)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-5-methanesulfonyloxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester (385 mg, 0.67 mmol) in THF (6.8 mL) under argon atmosphere. The solution was stirred 10 min at 0° C., then poured into cold water and extracted with EtOAc (×2). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 75:25). TLC, Rf (c-hexane/EtOAc 1:1)=0.55; MS (UPLC/MS): 383.3/385.3 [M+H]+, 427.5/429.4 [M+HCOO]−; tR (HPLC conditions f): 2.24 min.

reactant | Lithium triethylborohydride | 2.06 mmol, 1N, 2.06 mL | C(C)[BH-](CC)CC.[Li+]
reactant | (1R,3S,5S)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-5-methanesulfonyloxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | 0.67 mmol, 385 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@]2(C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)COS(=O)(=O)C | C20H26ClFN2O6S
reactant | water | O | H2O
solvent | THF | 6.8 mL | C1CCOC1 | C4H8O
product | (1R,3S,5R)-3-(3-Chloro-2-fluoro-benzylcarbamoyl)-5-methyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@]2(C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)C | C19H24ClFN2O3
